US08252935B2
b) 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid
To compound 47a, 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester (67.3 mg, 0.10 mmol) in EtOH (5.2 ml) was added 2M KOH (0.52 ml, 1.04 mmol). The reaction was heated to 78° C. for 1.5 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (41 mg, 63%). 1H NMR (300 MHz, MeOD) δ ppm 0.90-0.96 (m, 6 H) 1.50 (tt, J=13.38, 6.78 Hz, 1 H) 1.67 (dt, J=13.66, 6.92 Hz, 1 H) 1.88-2.03 (m, 3 H) 2.08 (d, J=17.33 Hz, 2 H) 3.03-3.14 (m, 1 H) 3.14-3.25 (m, 1 H) 3.49-3.62 (m, 2 H) 3.76 (t, J=7.72 Hz, 1 H) 4.34-4.47 (m, 2 H) 7.32 (s, 1 H) 7.42 (d, J=8.29 Hz, 2 H) 7.50 (s, 1 H) 7.57 (s, 1 H) 7.66 (d, J=8.67 Hz, 2 H) 7.78 (q, J=8.41 Hz, 4 H), Calcd for C32H33F6NO3 (M+H) 593.60, Found 594.3.

reactant | 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | 0.10 mmol, 67.3 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C34H37F6NO3
reactant | KOH | 1.04 mmol, 2M, 0.52 ml | [OH-].[K+]
solvent | EtOH | 5.2 ml | CCO | C2H6O
product | 4-Methyl-2-{5-[1-(4-trifluoromethoxy-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C32H33F6NO3
